US06750230B2
(3E and 3Z)-3-(3,5-Dichlorobenzylidene)-1,1,1-trifluoro-2,4-hexanedione
The title compound was prepared by a similar method to that of Preparation 9 using 1,1,1-trifluorohexane-2,4-dione and 3,5-dichlorobenzaldehyde. The crude product was purified by flash chromatography on silica gel eluting with a solvent gradient of pentane gradually changing to pentane:ethyl acetate (5:1, by volume). The product was further purified by flash chromatography eluting with dichloromethane:pentane (1:10, by volume) to afford a mixture of the title compounds (500 mg) as a yellow oil.

reactant | 1,1,1-trifluorohexane-2,4-dione | FC(C(CC(CC)=O)=O)(F)F | C6H7F3O2
reactant | 3,5-dichlorobenzaldehyde | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
product | 3-(3,5-Dichlorobenzylidene)-1,1,1-trifluoro-2,4-hexanedione | ClC=1C=C(C=C(C(C(F)(F)F)=O)C(CC)=O)C=C(C1)Cl | C13H9Cl2F3O2
